datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[C:17]([C:18](=[C:19]([H:23])[H:24])[H:22])([H:20])[H:21]>>[C:0](=[C:1][C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:11])[C:17]([C:18](=[C:19]([H:23])[H:24])[H:22])([H:20])[H:21])([H:9])[H:10],64.4336
[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([O:5][O:6][H:19])([H:17])[H:18])[O:7][O:8])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2](=[C:3]([H:15])[H:16])[C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:12])[H:13])([H:9])([H:10])[H:11].[O:7][O:8][H:14],123.428
[C:0]([C:1]([C:2]([O:3][O:4][H:11])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6]>>[C:0]([C:1]([C:2]([O:3])([H:9])[H:10])([H:7])[H:8])([O:4][H:11])([H:5])[H:6],116.315
[C:0]([C:1]([C:2](=[C:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[C:6]([H:16])[H:17])[H:15])[H:11])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([H:11])[C:3]1([C:4]([H:12])([H:13])[H:14])[C:5](=[C:6]([H:16])[H:17])[H:15],150.331
[C:0](=[N:1][N:2]([H:5])[H:6])([H:3])[H:4].[N:7]([H:8])[H:9]>>[C:0](=[N:1][N:2][H:6])([H:3])[H:4].[H:5][N:7]([H:8])[H:9],18.9954
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[C:15]([O:16][H:25])([H:23])[H:24])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][C:13]([C:12]([H:17])([H:18])[H:19])([C:14]([H:20])([H:21])[H:22])[C:15]([O:16][H:25])([H:23])[H:24],6.10864
[C:0](=[C:1]([C:2]=[C:3]([C:4]([H:9])([H:10])[H:11])[H:8])[H:7])([H:5])[H:6]>>[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])[H:11])[H:8])[H:9])[H:7])([H:5])[H:6],193.078
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30][O:31]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][O:30][O:31],199.11656
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8]>>[C:0]([C:1]1([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([C:6]([H:17])([H:18])[H:19])[H:16])([H:7])[H:8],31.4218
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[O:35]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13].[H:11][O:35],23.028736
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:18])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:15])([H:16])[H:17])([O:5])[H:14])[H:10])([H:7])([H:8])[H:9].[O:6][H:18],191.5326416
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[C:9]([C:10]([H:14])([H:15])[H:16])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:11])([H:4])[H:5].[C:9]([C:10]([H:14])([H:15])[H:16])([H:12])[H:13],46.024
[C:0](=[O:1])[H:2].[c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]([H:12])[c:8]1[H:13]>>[C-:0]#[O+:1].[H:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[c:7]([H:12])[c:8]1[H:13],0.158992
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[O:13]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:5])[H:6].[H:4][O:13],0.0
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:25]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:16][H:25],22.1752
[C:0]([C:1]([C:2]([O:3])([C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2](=[O:3])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14],46.35872
[C:0]([C:1]1=[C:2]([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])[C:6]1([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:15])([H:7])([H:8])[H:9].[H:14],117.5704
[C:5]([S:6][H:9])([H:7])[H:8].[S:0]=[C:1]([S:2][H:4])[H:3]>>[H:4][C:5]([S:6][H:9])([H:7])[H:8].[S:0]=[C:1]([S:2])[H:3],-9.2048
